US07294633B2
13b: 4-chloro-6-(3-nitrophenyl)furo[2,3-d]pyrimidine
11 g of 4-hydroxy-6-(3-nitrophenyl)furo[2,3-d]pyrimidine are heated for 4 h to RF in ca. 340 ml of phosphorus oxychloride. Afterwards, the reaction mixture is left to stand over night and then added to 5 kg of drained ice. The resulting suspension is filtered by suction and washed with a lot of H2O. The residue is dried in a HV and sublimated at ca. 200° C.; m.p.: 196-205° C.

reactant | 4-hydroxy-6-(3-nitrophenyl)furo[2,3-d]pyrimidine | 11 g | OC=1C2=C(N=CN1)OC(=C2)C2=CC(=CC=C2)[N+](=O)[O-] | C12H7N3O4
reactant | phosphorus oxychloride | ca. 340 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-(3-nitrophenyl)furo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)OC(=C2)C2=CC(=CC=C2)[N+](=O)[O-] | C12H6ClN3O3
